US03944560
Step B: Preparation of 7-amino-3'-isopropyl-2'-phenyl-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-5'-oxazolidine:
3'-isopropyl-7-nitro-2'-phenyl-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-5'-oxazolidine (370 mg.; 1 mmole) in ethyl acetate (10 ml.) is hydrogenated at room temperature and pressure in the presence of 5% palladium on charcoal (50 mg.). When 3 moles of hydrogen has been absorbed (73 ml. at 23° C.) the catalyst is filtered off and the filtrate evaporated to a solid foam; yield 340 mg. (100%). Because of the lability of this compound, it is used in the next stage without purification.

reactant | 3'-isopropyl-7-nitro-2'-phenyl-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-5'-oxazolidine | 1 mmole, 370 mg | C(C)(C)N1C(OC2(C1)COC1=C(OC2)C=CC(=C1)[N+](=O)[O-])C1=CC=CC=C1 | C20H22N2O5
reactant | hydrogen | 3 moles | [H][H] | H2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
product | 7-amino-3'-isopropyl-2'-phenyl-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-5'-oxazolidine | NC1=CC2=C(OCC3(CN(C(O3)C3=CC=CC=C3)C(C)C)CO2)C=C1 | C20H24N2O3
